US06452014B1
To a suspension of 5,6-dichloro-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-1-(4-methylphenyl)sulfonylindol-2-yl]benzimidazole (77 mg, 0.13 mmol) in methanol (5 mL) was added aqueous sodium hydroxide (2 mol/L; 1 mL), and the mixture was heated to reflux for 19 h. The reaction mixture was cooled on an ice bath, and pH was adjusted to 7. The precipitated products were collected by filtration followed by trituration with tetrahydrofuran/ethyl acetate to afford 5,6-dichloro-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]indol-2-yl]benzimidazole (10 mg, 18%).

reactant | 5,6-dichloro-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]-1-(4-methylphenyl)sulfonylindol-2-yl]benzimidazole | 0.13 mmol, 77 mg | ClC1=CC2=C(N=C(N2)C=2N(C3=CC=C(C=C3C2)C=C2C(NC(S2)=O)=O)S(=O)(=O)C2=CC=C(C=C2)C)C=C1Cl | C26H16Cl2N4O4S2
reactant | sodium hydroxide | 2 mol/L, 1 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 5,6-dichloro-2-[5-[(2,4-dioxothiazolidin-5-ylidene)methyl]indol-2-yl]benzimidazole | 10 mg, 18% | ClC1=CC2=C(N=C(N2)C=2NC3=CC=C(C=C3C2)C=C2C(NC(S2)=O)=O)C=C1Cl | C19H10Cl2N4O2S
